US04665078
5-Bromo-2-(4-aminobutyl)-3-aminopyridine (0.5 g) and 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone (0.59 g) were refluxed in pyridine (2 ml) under nitrogen for 9 hours. The pyridine was removed in vacuo and the residual pyridine removed by azeotroping with n-propanol. After chromatography on silica in ethylacetate/ethanol/0.880 ammonia (15:10:2), the residue was crystallised from ethanol-ether and water (2 drops) to give 2-[4-(5-bromo-3-aminopyrid-2-yl)butylamino]-5-(6-methylpyrid-3-ylmethyl) 4-pyrimidone (0.52 g), m.p. 196°-197° C.

reactant | 5-Bromo-2-(4-aminobutyl)-3-aminopyridine | 0.5 g | BrC=1C=C(C(=NC1)CCCCN)N | C9H14BrN3
reactant | 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone | 0.59 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-[4-(5-bromo-3-aminopyrid-2-yl)butylamino]-5-(6-methylpyrid-3-ylmethyl) 4-pyrimidone | 0.52 g | BrC=1C=C(C(=NC1)CCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C)N | C20H23BrN6O
